US07053212B2
Step B: 2-Chloro-N-[1-(4-hydroxy-phenyl)-ethyl]-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide
To a solution of 2-chloro-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-{1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethyl}-benzenesulfonamide (0.088 g, 0.150 mmol) in absolute ethanol (4.0 mL) was added HCl (1.2N, 0.8 mL). The reaction was stirred at room temperature overnight. The reaction mixture was quenched with sat. sodium bicarbonate solution (ca. 10 mL) and extracted with methylene chloride (2×10 mL). The combined organic layers were dried (sodium sulfate), filtered and concentrated. The residue was purified by preparative TLC (SiO2, 10% methanol/ethyl acetate) to afford the title compound (0.007 g, 14.6 μmol). MS 501.4 (M+1)+

reactant | 2-chloro-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-{1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethyl}-benzenesulfonamide | 0.150 mmol, 0.088 g | ClC1=C(C=CC=C1)S(=O)(=O)N(C(C)C1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C31H37ClN2O5S
reactant | HCl | 1.2N, 0.8 mL | Cl | ClH
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | 2-Chloro-N-[1-(4-hydroxy-phenyl)-ethyl]-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | 14.6 μmol, 0.007 g | ClC1=C(C=CC=C1)S(=O)(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)C(C)C1=CC=C(C=C1)O | C26H29ClN2O4S
